US07709483B2
(g) 2-Chloro-7-fluoro-8-methylquinoxaline
7-Fluoro-8-methyl-2(1H)-quinoxalinone (5.75 g, 32.3 mmol) in phosphorus oxychloride (30 ml) was heated under reflux for 2 h. Phosphorus oxychloride was removed by evaporation, and the residue was basified with aqueous sodium bicarbonate and extracted several times with ethyl acetate. The extracts were dried and evaporated, and the residue was dissolved in dichloromethane and passed quickly through a short column of silica (20 g), washing through with more dichloromethane. Removal of solvent gave product (4.13 g, 65%).

reactant | 7-Fluoro-8-methyl-2(1H)-quinoxalinone | 32.3 mmol, 5.75 g | FC1=CC=C2N=CC(NC2=C1C)=O | C9H7FN2O
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-7-fluoro-8-methylquinoxaline | 4.13 g, 65% | ClC1=NC2=C(C(=CC=C2N=C1)F)C | C9H6ClFN2
